US05550143
Preparation A: Preparation of 2-chloro-10-(3-dimethylaminopropyl)phenothiazine
3.56 g (10 mmol) of 2-chloro-10-(3-dimethylaminopropyl) phenothiazine hydrochloride are suspended in 15 ml of a 1N sodium hydroxide solution. The amine freed is extracted with diethyl ether. The organic phase is decanted and dried over sodium sulfate and then evaporated to dryness to yield 3.13 g of an oil corresponding to the expected product.

reactant | 2-chloro-10-(3-dimethylaminopropyl) phenothiazine hydrochloride | 10 mmol, 3.56 g | Cl.ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN(C)C
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | 2-chloro-10-(3-dimethylaminopropyl)phenothiazine | 3.13 g, Yield: 98% | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN(C)C | C17H19ClN2S
